US04036979
In the manner outlined in Example 6, except for using diethyl ether instead of methylene chloride, 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isocyanate is allowed to react with morpholine to give N-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)-4-morpholinecarboxamide, which melts at 152° C. to 154° C.

reactant | 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isocyanate | S1C2=C(C=C1)C(CCC2)N=C=O | C9H9NOS
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)-4-morpholinecarboxamide | S1C2=C(C=C1)C(CCC2)NC(=O)N2CCOCC2 | C13H18N2O2S
